US07115609B2
1-[N-(5-Chloroindole-2-carbonyl)-β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine
Using methods substantially equivalent to those described in Method D-1, the titled compound was prepared from 1-[β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine tetrahydrochloride and 5-chloroindole-2-carboxylic acid (46%).

reactant | 1-[β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine tetrahydrochloride | Cl.Cl.Cl.Cl.CN1CCC(CC1)C[C@@H](N)C(=O)N1CCN(CC1)C1CCN(CC1)C
reactant | 5-chloroindole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 1-[N-(5-Chloroindole-2-carbonyl)-β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H](CC1CCN(CC1)C)C(=O)N1CCN(CC1)C1CCN(CC1)C | C28H41ClN6O2
